US04918073
(b) 1-[4,4-Bis(4-fluorophenyl)butyl]-4-(2-chloroethyl)-piperidine
115 g of thionyl chloride were added dropwise to 23 g (61.6 mmol) of 1-[4,4-bis(4-fluorophenyl)butyl]-4-(2-hydroxyethyl)piperidine in 100 ml of methylene chloride, while cooling with ice, and the mixture was then heated under reflux for 5.5 hours. The solvent and excess reagent were stripped off in vacuo, the residue (the hydrochloride of the product) was crystallized by addition of 450 ml of ether and the crystals were filtered off with suction, washed several times with ether and dried in vacuo.

reactant | thionyl chloride | 115 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-[4,4-bis(4-fluorophenyl)butyl]-4-(2-hydroxyethyl)piperidine | 61.6 mmol, 23 g | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)CCO)C1=CC=C(C=C1)F | C23H29F2NO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-[4,4-Bis(4-fluorophenyl)butyl]-4-(2-chloroethyl)-piperidine | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)CCCl)C1=CC=C(C=C1)F | C23H28ClF2N
